US08871760B2
To a stirred room temperature suspension of P4S10 (6.0 g, 13.4 mmol) and Na2CO3 (1.42 g, 13.4 mmol) in THF (40 mL) was slowly added a solution of (R)-5-(3-fluoro-phenyl)-morpholin-3-one (2.16 g, 11.1 mmol) in THF (30 mL). The mixture was stirred at room temperature for two hours, and then quenched by addition of 10% aqueous Na3PO4 (50 mL). The mixture was stirred another five minutes and then extracted with a 1:1: mixture of ethyl acetate and diethyl ether. The organic layer was separated, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was chromatographed through silica gel using a 15-30% ethyl acetate/hexanes solvent gradient to give 1.84 g (78%) of (R)-5-(3-fluoro-phenyl)-morpholine-3-thione as a white solid, MP=124-125° C.

reactant | P4S10 | 13.4 mmol, 6.0 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Na2CO3 | 13.4 mmol, 1.42 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (R)-5-(3-fluoro-phenyl)-morpholin-3-one | 11.1 mmol, 2.16 g | FC=1C=C(C=CC1)[C@@H]1COCC(N1)=O | C10H10FNO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-5-(3-fluoro-phenyl)-morpholine-3-thione | 1.84 g, 78% | FC=1C=C(C=CC1)[C@@H]1COCC(N1)=S | C10H10FNOS
